US06271395B1
Using the procedure of Example 23, Step A, 14.57 g of 2,3-epoxy-indane and 12.4 ml of N-methyl piperazine were reacted to obtain 6.447 g of [trans (±)] 2,3-dihydro-1- (4- methyl-1-piperazinyl)-1H-inden-2-o1 melting at 132° C.

reactant | 2,3-epoxy-indane | 14.57 g | O1C2CC3=CC=CC=C3C21 | C9H8O
reactant | N-methyl piperazine | 12.4 ml | CN1CCNCC1 | C5H12N2
product | 2,3-dihydro-1- (4- methyl-1-piperazinyl)-1H-inden-2-o1 | CN1CCN(CC1)C1C(CC2=CC=CC=C12)O | C14H20N2O
